US07786108B2
Step 2. Preparation of (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-benzoic acid
Add 5 N sodium hydroxide solution (0.5 mL) to a solution of (S)-4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-benzoic acid methyl ester (40 mg, 0.058 mmol) in methanol (1 mL) and heat at 60° C. for 4 h. After the reaction cools to room temperature, acidify to pH 4 with 2 N hydrochloric acid solution and extract the aqueous mixture with ethyl acetate (3×10 mL). Wash the organic layer with water and brine (10 mL each). Dry the organic layer over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure to provide the title compound as an off-white solid (20 mg, 51%). mp 101-105° C.; 1H NMR (CDCl3, 300 MHz) δ 1.75-1.91 (m, 1H), 2.05-2.36 (m, 3H), 2.29 (s, 3H), 3.35-3.43 (m, 1H) 3.99-4.09 (m, 1H), 4.19 (s, 3H), 4.70-5.35 (m, 3H), 6.70-6.75 (m, 2H), 7.20 (s, 1H), 7.47 (s, 1H), 7.63-7.72 (m, 2H), 7.80 (s, 1H), 7.96-8.10 (m, 2H); ESI MS m/z 673 [C30H25F9N6O2+H]+.

reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
reactant | (S)-4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-benzoic acid methyl ester | 0.058 mmol, 40 mg | COC(C1=CC=C(C=C1)N1C2=C([C@H](CCC1)N(C=1N=NN(N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C31H27F9N6O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | (S)-4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-yl}-benzoic acid | 20 mg, 51% | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)C2=CC=C(C(=O)O)C=C2)C=C(C(=C3)C)C(F)(F)F)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C30H25F9N6O2
